2153-04-11 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2153-4-10**] 11:00 AM
 TRANSTHORACIC ECHO - At [**2153-4-10**] 11:53 AM
   - HD initiated and tolerated well
   - Echo with EF 40%, global, mod AS/AR, 3+ TR -> restarted low dose beta
   blocker, held on re-starting ACE-I to see how responds to BB
   - No new neuro, nsurg, [**Doctor First Name 213**] recs.
   - Free T4 1.5
   - Radiology: not good study to assess cavernous thrombosis -> low
   concern by neuro
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2153-4-10**] 12:07 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-10**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-11**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 80 (58 - 108) bpm
   BP: 134/44(62) {91/29(28) - 137/81(82)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 116 kg
    CVP: 15 (7 - 21)mmHg
   Total In:
                                                                  1,050 mL
   PO:
   TF:
   IVF:
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    105 mL
   Urine:
                                                                    340 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.21/52/81.[**Numeric Identifier 508**]/26/-7
   Physical Examination
   VS: T97.4 BP 113/51 (99/52 - 129/81) HR 57-69 RR 20  96% 2L NC
   24 Hour I/O: 1290/75 BMx1  5 Hour I/O: 1070/56
   GEN: elderly woman lying in bed, looking to the right, intermittently
   following commands, oriented to person and place but not time.  Strange
   breathing pattern, breathing primarily out nose puffing out cheeks and
   lips.
   HEENT: not cooperating with EOMI testing, looking persistently to the
   right, pupils pinpoint, equal minimally reactive to light, dry mucous
   membranes
   NECK: Supple, no evidence of JVD
   CV: Reg rate, normal S1, S2, 2/6 systolic murmur
   CHEST: CTAB anteriorly
   ABD: obese, distended, +BS, umbilical hernia reducible, no apparent
   tenderness to palpation
   EXT: chronic thickening of lower extremity skin [**1-29**] chronic venous
   stasis, s/p skin grafting to right lower leg, no skin breakdown,
   +lymphedema
   Labs / Radiology
   291 K/uL
   9.8 g/dL
   116 mg/dL
   5.0 mg/dL
   26 mEq/L
   4.5 mEq/L
   83 mg/dL
   93 mEq/L
   131 mEq/L
   31.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2153-4-9**]  11:53 PM
                             [**2153-4-10**]  03:32 AM
                             [**2153-4-10**]  11:23 AM
                             [**2153-4-10**]  04:34 PM
                             [**2153-4-11**]  03:09 AM
   WBC
   10.0
   9.1
   Hct
   35.4
   31.6
   Plt
   327
   291
   Cr
   5.8
   6.0
   4.5
   5.0
   TropT
   0.23
   TCO2
   22
   Glucose
   72
   99
   131
   116
   Other labs: PT / PTT / INR:18.1/32.7/1.7, CK / CKMB /
   Troponin-T:42//0.23, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:2.1
   mg/dL, PO4:7.4 mg/dL
   Fluid analysis / Other labs: [**4-9**] CMV: negative
   Imaging: [**4-10**] ECHO:
   The left atrium is moderately dilated. The right atrium is moderately
   dilated. No atrial septal defect is seen by 2D or color Doppler. The
   estimated right atrial pressure is 0-10mmHg. There is moderate
   symmetric left ventricular hypertrophy. The left ventricular cavity
   size is normal. There is mild global left ventricular hypokinesis (LVEF
   = 40 %) with more significant hypokinesis of the septum The right
   ventricular cavity is mildly dilated with borderline normal free wall
   function. There is abnormal diastolic septal motion/position consistent
   with right ventricular volume overload. The ascending aorta is
   moderately dilated. The aortic valve leaflets are moderately thickened.
   There is moderate aortic valve stenosis (area 1.0-cm2). Moderate (2+)
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Mild to moderate ([**12-29**]+)
   mitral regurgitation is seen. The left ventricular inflow pattern
   suggests a restrictive filling abnormality, with elevated left atrial
   pressure. Moderate to severe [3+] tricuspid regurgitation is seen. The
   tricuspid regurgitation jet is eccentric and may be underestimated.
   There is moderate pulmonary artery systolic hypertension. Significant
   pulmonic regurgitation is seen. There is no pericardial effusion.
   Compared with the findings of the prior study (images reviewed) of
   [**2152-10-20**], left ventricular systolic function is now impaired. The
   severity of tricuspid regurgitation has increased. The severity of
   aortic regurgitation has increased. The other findings are similar.
   [**4-9**] CXR:
   The central venous line tip is at the right atrium, newly inserted. No
   evidence of pneumothorax or apical hematoma is demonstrated. The
   cardiomegaly is still present, slightly better since [**2153-1-26**].
   There is interval development of right lower lobe opacity compared to
   [**2153-4-4**], that is most likely representing aspiration or
   combination of aspiration and pleural effusion, although infectious
   process cannot be excluded. Mild volume overload is present in the
   perihilar areas, thus asymmetric pulmonary edema is another
   possibility. Clinical correlation is recommended with close followup
   with chest radiographs.
   Microbiology: [**4-9**] Blood Cx: NGTD
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Ms. [**Known lastname 3136**] is a 70 yo F with PMH AFib, hypertension, DM with ESRD s/p
   renal transplant admitted with abdominal/back pain [**1-29**] spinal stenosis
   with course c/b UTI, acute on chronic renal failure, altered mental
   status and hyponatremia.
   .
   #Hyponatremia: thought hypovolemic hyponatremia by the floor team, with
   urine lytes consistent with prerenal syndrome with urine sodium < 20.
   She was given 1LNS on [**4-6**], 500 ml NS on [**4-7**] and then started on
   D5/sodium bicarbonate at 70ml/hr however sodium worsened to 122 from
   139 on admission.  Floor team worried that may be contributing to poor
   mental status so she was transferred to the ICU for hypertonic saline.
   Other consideration could be hyponatremia due to adrenal insufficiency
   given that she also has hyperkalemia and relative hypotension and is on
   chronic steroids.  Improved with dialysis [**4-10**]
   -cont to trend
   -stress dose steroids, will begin taper
   -echo with new depressed EF at 40%
   - no need for hypertonic saline currently
   - free T4 normal
   .
   #Altered Mental Status: thought most likely to be multifactorial due to
   possible infection ?UTI, acute on chronic renal failure with uremia,
   hyponatremia.  Per floor team she has improved somewhat since
   ceftriaxone started for UTI.  She did get sedatives during tunnelled
   line placement, likely contributing to AMS on arrival to the unit.  She
   had head MRI and CT which did not show any acute abnormalities.
   Hyponatremia likely contributing.  Intervally improved per family.
   -Finished short course of CTX -> will D/C [**4-11**]
   -f/u blood cultures
   -EEG performed, follow up read
   -f/u neuro reccs
   -f/u fungal cultures
   -treat for adrenal insufficiency as per above
   .
   #Proptosis, conjunctival injection - on exam eyes are protruding
   bilaterally, per patients daughter this is new over the past 2-3 days
   and seems to be fluctuating in severity.  Patient states this is
   chronic.  Spoke with neurology, unlikely to be cavernous sinus
   thrombosis.   Has had MRI but not with contrast [**1-29**] CKD, no obvious
   abnormalitis
   - Appreciate ophtho consult
   .
   #Hyperkalemia - likely [**1-29**] acute on chronic renal failure vs adrenal
   insufficiency.  Now stable on HD
   -monitor K closely
   .
   #Acute on chronic kidney disease s/p transplant: unclear cause by
   creatinine has been trending up, concerning for transplant rejection
   with worsening hyperkalemia and volume overload.  Other consideration
   is NSAID induced given that pt was taking NSAIDS for acute gout flare
   prior to admission.  Other possibilities are prerenal failure due to
   adrenal insfficiency vs poor cardiac output vs volume depletion.  FENA
   is consistent with prerenal etiology.  No evidence of post renal
   obstruction.  Infection ie. CMV also possible given that tacro level is
   elevated.
   -Tacrolimus level was too high initially, tacro was d/c'd by the floor
   team, f/u levels
   -Tunnelled HD line placed, HD initiated
   -f/u renal reccs
   -f/u cmv viral load
   -stress dose steroids -> will start to taper back to baseline
   -continue calcitriol, calcium carbonate
   .
   # Cardiomyopathy:  EF intervally worse.  Likely related to chronic
   diseases and possibly uremia.  No obvious ischemic component but would
   not be surpirising.  Clinically euvolemic
   - Cont low dose BB
   - ? renal if ACE-I or [**Last Name (un) **] is OK
   - Would benefit from statin
   - Will email cardiologist Dr. [**Last Name (STitle) **]
   .
   # Back/Abdominal Pain: Thought to most likely to be due to lumbar
   spinal stenosis and radiculopathy seen on CT abdomen/pelvis.
   -f/u neurology reccs
   -f/u neurosurgery consult (called on [**4-8**]) -> no surgical issues
   .
   #Paroxysmal atrial fibrillation - currently in NSR on transfer
   -Cont coumadin at outpatient dose
   -touch base w/renal ?plan for biopsy (if so would want to continue
   holding coumadin)
   -bradycardic
   -continue amiodarone
   .
   #Diabetes - stable, continue outpatient meds
   -nph [**Hospital1 7**], HISS
   .
   # HTN - has been hypotensive
   -holding lisinopril, hydralazine, lasix
   .
   # Access: tunelled dialysis line with VIP port
   ICU Care
   Nutrition: diabetic, renal diet monitor hyperkalemia
   Glycemic Control: Comments: nph, hiss
   Lines:
   Dialysis Catheter - [**2153-4-9**] 06:18 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2153-04-11 11:30:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: acute on chronic renal failure, altered mental status
   now resolved
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2153-4-10**] 11:00 AM
 TRANSTHORACIC ECHO - At [**2153-4-10**] 11:53 AM
   - dialysis line placed
   - hemodialysis initiated
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2153-4-11**] 08:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-11**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-11**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 92 (67 - 108) bpm
   BP: 102/60(70) {91/30(48) - 144/86(91)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 116 kg
   CVP: 15 (7 - 21)mmHg
   Total In:
                                                                  1,050 mL
                                                                     80 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  1,050 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    225 mL
   Urine:
                                                                    340 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.21/52/81.[**Numeric Identifier 508**]/26/-7
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: proptosis
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly (2ndry LBP))
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person place date, Movement: Not assessed,
   No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   291 K/uL
   116 mg/dL
   5.0 mg/dL
   26 mEq/L
   4.5 mEq/L
   83 mg/dL
   93 mEq/L
   131 mEq/L
   31.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2153-4-9**]  11:53 PM
                             [**2153-4-10**]  03:32 AM
                             [**2153-4-10**]  11:23 AM
                             [**2153-4-10**]  04:34 PM
                             [**2153-4-11**]  03:09 AM
   WBC
   10.0
   9.1
   Hct
   35.4
   31.6
   Plt
   327
   291
   Cr
   5.8
   6.0
   4.5
   5.0
   TropT
   0.23
   TCO2
   22
   Glucose
   72
   99
   131
   116
   Other labs: PT / PTT / INR:18.1/32.7/1.7, CK / CKMB /
   Troponin-T:42//0.23, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   70F w/ multiple medical problems including DM, HTN, ESRD s/p CRTx was
   admitted to MICU last with worsening renal failure and hyponatremia for
   admin of hypertonic saline.
   Hyponatremia:
   -UNa was highly avid for sodium
   -Fluid resuscitation/challenge did not appreciably change UNa making
   flow/hypovolemia less likely as etiology.
   -Now improved to low normal range
   -renal following
   Altered Mental Status:
   -much improved today
   -AAOx3
   -EEG - no seizure activity
   UTI:
   -cont ceftriaxone
   Proptosis:
   - prominent but perhaps better today
   - pt had related that was old, daughter states is is new within last
   several days
   - unlikely but need to consider concerning possiblity of cavernous
   sinous thrombosis (MRI not helpful in excluding since I- due to renal
   failure)
   -ophtho following
   Hyperkalemia:
   - presumed secondary to acute on chronic renal failure
   -dialysis initiated
   CKD
   -s/p transplant
   -renal following - immune supp regimen per their recs.
   -f/u cmv viral load
   -continue calcitriol, calcium carbonate
   Back/Abdominal Pain:
   -lumbar spinal stenosis and radiculopathy
   -f/u neurology reccs
   Paroxysmal atrial fibrillation:
   -NSR
   -continue amio
   Diabetes:
   - stable
   - continue outpatient regimen
   -nph [**Hospital1 7**], SSRI
   HTN:
   -has been hypotensive
   -holding antiHTN meds
   Remainder of plan as outlined in resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-4-9**] 06:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: